US08802670B2
To a solution of 4-(morpholine-4-sulfonyl)-piperidine-1-carboxylic acid tert-butyl ester in dichloromethane (10 ml) and methanol (10 ml) was added 2M hydrogen chloride in ether (2 μL). The reaction mixture was stirred overnight. The solvents were removed in vacuo to yield 4-(piperidine-4-sulfonyl)-morpholine hydrochloride salt.

reactant | 4-(morpholine-4-sulfonyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)S(=O)(=O)N1CCOCC1 | C14H26N2O5S
reactant | hydrogen chloride | 2M | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
solvent | ether | 2 μL | CCOCC | C4H10O
product | 4-(piperidine-4-sulfonyl)-morpholine hydrochloride salt | Cl.N1CCC(CC1)S(=O)(=O)N1CCOCC1 | InChI=1S/C9H18N2O3S.ClH/c12-15(13,9-1-3-10-4-2-9)11-5-7-14-8-6-11;/h9-10H,1-8H2;1H
